US05710322
A solution of 100.0 g (406 mmol) of (S)-3,3,N-trimethyl-2-(1-phenylethylimino)-butyramide in 775 ml of methanol was hydrogenated in a 21 autoclave in the presence of 5 g of 5 percent Pd/C at 40° C. and at a pressure of 1 bar for 7 hours. Re-hydrogenation was carried out for 6 hours at 70° C. and under a pressure of 2 bar in order to complete the hydrogenolysis. After cooling the catalyst was filtered off and the filtrate was evaporated to dryness: 58.3 g (99.6%) of white crystals with 99.6% N-methyl-tert-leucinamide content, e.e. 97.2%. Recrystallization from 425 ml of cyclohexane yields (S)-N-methyl-tert-leucinamide as white crystals, m.p. 90°-93° C., [α]=-40.8 (c=1, CHCl3), 99.3% e.e. In order to determine the e.e value, the product was derivatized with (-)-camphanoyl chloride and the diastereomer mixture was analyzed by gas chromatography.

reactant | (S)-3,3,N-trimethyl-2-(1-phenylethylimino)-butyramide | 406 mmol, 100.0 g | CC(C(C(=O)NC)=N[C@@H](C)C1=CC=CC=C1)(C)C | C15H22N2O
solvent | methanol | 775 ml | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | (S)-N-methyl-tert-leucinamide | CNC([C@@H](N)C(C)(C)C)=O | C7H16N2O
